US04473579
A solution of 5.09 g. of N-phenyl-3-chloraniline in 20 ml. of toluene is added to a solution of 4.70 g. of phosgene and 3.64 g. of N,N-dimethylaniline in 55 ml. of toluene and the mixture is warmed to 400° C. and then stirred while cooling to room temperature during 45 minutes. The mixture is extracted with water and the organic layer is separateld and evaporated to about one-half its volume. To this solution is added 100 ml. of toluene followed by 9.80 g. of N-benzyl-n-butylamine. The resulting mixture is sitrred under reflux for 30 minutes and then washed with water, 1N hydrochloric acid, and saturated sodium bicarbonate solution. The organic layer is separated, dried over sodium sulfate, decolorized using activated charcoal, and evaporated. The residue is evaporatively distilled at 185°-190° C. under reduced pressure (105 microns) to yield 1-benzyl-1-(n-butyl)-3-(3-chlorophenyl)-3-phenylurea as a viscous, pale-yellow liquid.

reactant | N-phenyl-3-chloraniline | C1(=CC=CC=C1)NC1=CC(=CC=C1)Cl | C12H10ClN
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | N,N-dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-1-(n-butyl)-3-(3-chlorophenyl)-3-phenylurea | C(C1=CC=CC=C1)N(C(=O)N(C1=CC=CC=C1)C1=CC(=CC=C1)Cl)CCCC | C24H25ClN2O
